US07871446B2
4.4 parts of 2-amino-5-nitrothiazole, 20 parts of propionic acid and 30 parts of acetic acid were charged and cooled to 5° C. 11.4 parts of 40% (w/w) nitrosyl sulfuric acid were added, whilst the temperature was held below 10° C. The diazotization mixture was stirred for a further 2 hrs at 5-10° C. To a separate vessel were charged 7.0 parts of 3-(ethyl-[3-methylphenyl]-amino)-propionic acid vinyl ester, 100 parts of methanol, 1 part sulfamic acid and 100 parts of ice. With stirring, the diazotization mixture was slowly added followed by a further 300 parts of ice. The reaction mixture was stirred over night and the product was isolated by filtration, washed subsequently with water, methanol and again water, then dried to yield 9.5 parts of 3-{ethyl-[3-methyl-4-(5-nitro-thiazol-2-ylazo)-phenyl]-amino}-propionic acid vinyl ester. λmax=602 nm (DMF).

reactant | 2-amino-5-nitrothiazole | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | nitrosyl sulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | 3-(ethyl-[3-methylphenyl]-amino)-propionic acid vinyl ester | C(=C)OC(CCN(C1=CC(=CC=C1)C)CC)=O | C14H19NO2
reactant | sulfamic acid | S(N)(O)(=O)=O | H3NO3S
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-{ethyl-[3-methyl-4-(5-nitro-thiazol-2-ylazo)-phenyl]-amino}-propionic acid vinyl ester | C(=C)OC(CCN(C1=CC(=C(C=C1)N=NC=1SC(=CN1)[N+](=O)[O-])C)CC)=O | C17H19N5O4S
